US09034879B2
Step 1: (R)-Benzyl 2-(2-(3-amino-6-bromo-5-(trifluoromethyl)picolinoyl)hydrazinyl)-2-oxo-1-phenylethylcarbamate
A suspension of 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid (Int. A) (200 mg, 0.702 mmol) in NMP (6 ml) was treated with (R)-benzyl 2-hydrazinyl-2-oxo-1-phenylethylcarbamate (Int. JR) (231 mg, 0.772 mg) followed by portionwise addition of HATU (293 mg, 0.772 mmol). After stirring at RT for 45 minutes, the reaction mixture was added to EtOAc (50 ml) and washed with 0.1 M NaOH (50 ml). The aqueous layer was back extracted with EtOAc (25 ml). The combined organic portions were washed with water (75 ml), brine (50 ml), dried (MgSO4) and concentrated in vacuo. The crude product was loaded in MeOH onto a pre-wetted (MeOH) Isolute® PE-AX (anion exchange) cartridge. The cartridge was eluted with MeOH (70 ml) and the filtrate was concentrated in vacuo to give a yellow solid which was placed under high vacuum to give the title compound as a yellow solid;

reactant | 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)O | C7H4BrF3N2O2
reactant | (R)-benzyl 2-hydrazinyl-2-oxo-1-phenylethylcarbamate | 231 mg | N(N)C([C@@H](C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C16H17N3O3
reactant | HATU | 0.772 mmol, 293 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | NMP | 6 ml | CN1CCCC1=O | C5H9NO
product | (R)-Benzyl 2-(2-(3-amino-6-bromo-5-(trifluoromethyl)picolinoyl)hydrazinyl)-2-oxo-1-phenylethylcarbamate | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)NNC([C@@H](C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C23H19BrF3N5O4
